US06972283B2
1-Ethyl-4-[(4-ethoxyphenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-methylpyrazole
The title compound was prepared in a similar manner to that described in Example 61 using 4-[(4-ethoxyphenyl)-methyl]-5-methyl-3-(β-D-glucopyranosyloxy)-1H-pyrazole instead of 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole and using iodoethane instead of iodopropane.

reactant | 4-[(4-ethoxyphenyl)-methyl]-5-methyl-3-(β-D-glucopyranosyloxy)-1H-pyrazole | C(C)OC1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C19H26N2O7
reactant | iodoethane | ICC | C2H5I
product | 1-Ethyl-4-[(4-ethoxyphenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-methylpyrazole | C(C)N1N=C(C(=C1C)CC1=CC=C(C=C1)OCC)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C21H30N2O7
